US04843082
5-Benzoyl-1,2,3,4-tetrahydro-8-quinolinol, hydrochloride
A solution of 215.1 mg (0.85 mmol) of 5-benzoyl-1,2,3,4-tetrahydro-8-quinolinol in 5 ml of ether was treated with 3 ml of hydrogen chloride saturated ether. The fluffy white precipitate was filtered off and recrystallized from dichloromethane-methanol-hexane to obtain 130.8 mg of a white solid, dried at 56° C./0.1 mm of Hg; melting point 237°-239° C., dec.

reactant | 5-benzoyl-1,2,3,4-tetrahydro-8-quinolinol | 0.85 mmol, 215.1 mg | C(C1=CC=CC=C1)(=O)C1=C2CCCNC2=C(C=C1)O | C16H15NO2
reactant | hydrogen chloride | 3 ml | Cl | ClH
solvent | ether | 5 ml | CCOCC | C4H10O
product | 5-Benzoyl-1,2,3,4-tetrahydro-8-quinolinol, hydrochloride | 130.8 mg | Cl.C(C1=CC=CC=C1)(=O)C1=C2CCCNC2=C(C=C1)O | InChI=1S/C16H15NO2.ClH/c18-14-9-8-13(12-7-4-10-17-15(12)14)16(19)11-5-2-1-3-6-11;/h1-3,5-6,8-9,17-18H,4,7,10H2;1H
